US06197826B1
Synthesis of α-(5-Chloro-2-hydroxyphenyl)-N-tert-butylnitrone
To a solution of tert-butylhydroxylamine (14.98 g, 168.4 mmol) in MeOH (160 mL) was added 5-chloro-2-hydroxybenzaldehyde (15.8 g, 129.5 mmol) and 3 drops of 37% hydrochloric acid. The resulting solution was refluxed through a Soxhlet apparatus containing molecular sieves (40 g) until no more aldehyde was detected by TLC. The solvent was removed in vacuo and the residue was recrystallized from EtOAc. The title compound was isolated in 98.5% yield as a crystalline solid, m.p. 143.4° C. (Rf=0.45 on a silica gel plate using 7:10 hexanes:EtOAc as an eluant).

reactant | tert-butylhydroxylamine | 168.4 mmol, 14.98 g | C(C)(C)(C)NO | C4H11NO
reactant | 5-chloro-2-hydroxybenzaldehyde | 129.5 mmol, 15.8 g | ClC=1C=CC(=C(C=O)C1)O | C7H5ClO2
solvent | MeOH | 160 mL | CO | CH4O
catalyst | hydrochloric acid | 3 drops | Cl | ClH
product | α-(5-Chloro-2-hydroxyphenyl)-N-tert-butylnitrone | 98.5% yield | ClC=1C=CC(=C(C1)C=[N+]([O-])C(C)(C)C)O | C11H14ClNO2
